US03993650
5-Carbomethoxy-7-phenyl-6H-pyrrolo[3,4-d]pyrimidine-2,4(1H,3H)-dione, from 3-amino-4,5-dicarbomethoxy-2-phenyl-pyrrole and sodium isocyanate. The intermediate 4,5-dicarbomethoxy-2-phenyl-3-ureido-pyrrole is isolated. M.p. 246°-8° C (from methanol/water). Yield of the title compound 88.5%. M.p. 320°-7° C. (from methanol/water).

reactant | 5-Carbomethoxy-7-phenyl-6H-pyrrolo[3,4-d]pyrimidine-2,4(1H,3H)-dione | C(=O)(OC)C=1NC(=C2NC(NC(C21)=O)=O)C2=CC=CC=C2 | C14H11N3O4
reactant | 3-amino-4,5-dicarbomethoxy-2-phenyl-pyrrole | NC1=C(NC(=C1C(=O)OC)C(=O)OC)C1=CC=CC=C1 | C14H14N2O4
reactant | sodium isocyanate | [N-]=C=O.[Na+]
product | 4,5-dicarbomethoxy-2-phenyl-3-ureido-pyrrole | C(=O)(OC)C=1C(=C(NC1C(=O)OC)C1=CC=CC=C1)NC(=O)N | C15H15N3O5
